US07435837B2
(±)-{[5-chloro-7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.046 g, 34%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-[5-chloro-7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate (0.172 g, 0.36 mmol) and methylamine (0.112 g, 3.6 mmol). mp 105-107° C.

reactant | (±)-[5-chloro-7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.36 mmol, 0.172 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=C(C=C2C2=C(C(=CC=C2)OC)OC)Cl | C24H23ClO6S
reactant | methylamine | 3.6 mmol, 0.112 g | CN | CH5N
product | (±)-{[5-chloro-7-(2,3-dimethoxyphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | ClC=1C=C(C2=C(CC(O2)CNC)C1)C1=C(C(=CC=C1)OC)OC | C18H20ClNO3
